US07250410B2
3,5-diphenyl-8-ethoxy-7-methoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one, XXIIba.
By replacing (2-amino-4,5-dimethoxyphenyl)(phenyl)methanone (XXIaa) in example XXIIaa by (2-amino-4-ethoxy-5-methoxyphenyl)(phenyl)methanone XXIak, and ethyl glycinate hydrochloride by ethyl phenylglycinate hydrochloride, and proceeding in the same manner, the abovenamed product is obtained. Yield: 55%. M: 168–169° C. 1H-NMR (DMSO, 200 MHz): d 1.38–1.42 (m, 3H, CH3), 3.65 (s, 3H, OCH3), 3.98–4.18 (m, 2H, CH2), 4.76 (s, 1H, CH), 6.78 (s, 1H Ar), 6.88 (s, 1H Ar), 7.38–7.58 (m, 10H Ar), 10.49 (s, 1H, NH).

reactant | (2-amino-4-ethoxy-5-methoxyphenyl)(phenyl)methanone | NC1=C(C=C(C(=C1)OCC)OC)C(=O)C1=CC=CC=C1 | C16H17NO3
reactant | ethyl glycinate hydrochloride | Cl.NCC(=O)OCC
reactant | ethyl phenylglycinate hydrochloride | Cl.C1(=CC=CC=C1)NCC(=O)OCC
product | 3,5-diphenyl-8-ethoxy-7-methoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 55% | C1(=CC=CC=C1)C1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C(=C2)OCC)OC)=O | C24H22N2O3
